US09085581B2
To a solution of 4-isopropoxy-3-(trifluoromethyl)benzoic acid (191 g, 770 mmol) in THF (2 L) at 0° C. in a 5-L round bottomed flask under N2 was added BH3 THF (1M solution in THF, 1.08 L, 1.08 mol) slowly over 15 min. The mixture was allowed to stir at 0° C. for 30 min at which time the ice bath was removed and the reaction warmed to room temperature. The reaction was quenched with MeOH (80.0 mL, 506 mmol) followed by aq. HCl (1 M, 1000 mL, 1000 mmol) (slight exotherm to 36° C. was observed). The volatile organics were removed in vacuo and the aqueous phase was extracted with EtOAc (2×1 L). The organic layers were combined and washed with sat. NaHCO3 (750 mL) and brine (750 mL). Dried organics over MgSO4, filtered, and concentrated to give (4-isopropoxy-3-(trifluoromethyl)phenyl)methanol (181 g, 763 mmol, 99% yield) as a clear oil. 1H NMR (400 MHz, CDCl3) δ ppm 1.37 (d, J=6.1 Hz, 6 H), 1.66 (s, 1H) 4.59-4.69 (m, 3 H), 6.99 (d, J=8.5 Hz, 1 H), 7.46 (dd, J1=8.5, J2=2.2 Hz, 1 H), 7.56 (d, J=1.9 Hz, 1 H).

reactant | 4-isopropoxy-3-(trifluoromethyl)benzoic acid | 770 mmol, 191 g | C(C)(C)OC1=C(C=C(C(=O)O)C=C1)C(F)(F)F | C11H11F3O3
reactant | MeOH | 506 mmol, 80.0 mL | CO | CH4O
reactant | HCl | 1000 mmol, 1 M, 1000 mL | Cl | ClH
solvent | THF | 2 L | C1CCOC1 | C4H8O
solvent | THF | 1.08 mol, 1M, 1.08 L | C1CCOC1 | C4H8O
product | (4-isopropoxy-3-(trifluoromethyl)phenyl)methanol | 763 mmol, 181 g, 99% yield | C(C)(C)OC1=C(C=C(C=C1)CO)C(F)(F)F | C11H13F3O2
